US07829560B2
N-[4-(2-Morpholin-4-ylethoxy)-1-naphthyl]-1,2,3-benzothiadiazole-5-carboxamide (Compound B50).
Compound is prepared from benzo[1,2,3]thiadiazole-5-carboxylic acid and 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine according to conditions described in general procedure G. Mp: 188-190° C.; 1H NMR (300 MHz, CDCl3) δ 2.70 (t, 4H), 3.00 (t, 2H), 3.78 (t, 4H), 4.30 (t, 2H), 6.82 (d, 1H), 7.58 (m, 2H), 7.65 (d, 1H), 7.88 (d, 1H), 8.15 (d, 1H), 8.25 (d, 2H), 8.40 (s, 1H), 9.18 (s, 1H); MS 435 (M+1).

reactant | benzo[1,2,3]thiadiazole-5-carboxylic acid | S1N=NC2=C1C=CC(=C2)C(=O)O | C7H4N2O2S
reactant | 4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-ylamine | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)N | C16H20N2O2
product | N-[4-(2-Morpholin-4-ylethoxy)-1-naphthyl]-1,2,3-benzothiadiazole-5-carboxamide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(=O)C=1C=CC2=C(N=NS2)C1 | C23H22N4O3S
